US04721797
Over 2 hours, 74.6 g (1.05 moles) of chlorine are introduced at 25°-30° C. into a solution of 277 g (1.0 mole) of N-methoxyacetyl-N-(2-oxotetrahydro-3-furyl)-2,6-dimethylaniline and 5 g of iron(III) chloride in 300 ml of 85% formic acid. The reaction is exothermic and virtually no gas evolves. When the addition of chlorine is complete, the reaction mixture is stirred for 30 minutes at 25° C., the formic acid is then distilled off in vacuo, the residue is taken up in 500 ml of toluene and the toluenic solution is washed with 100 ml of water. The oily residue obtained after the toluene has been distilled off is crystallised from a mixture of isopropanol and hexane, affording 287 g (92% of theory) of N-methoxyacetyl-N-(2-oxotetrahydro-3-furyl)-3-chloro-2,6-dimethylaniline with a melting point of 80°-82° C.

reactant | chlorine | 1.05 moles, 74.6 g | ClCl | Cl2
reactant | N-methoxyacetyl-N-(2-oxotetrahydro-3-furyl)-2,6-dimethylaniline | 1.0 mole, 277 g | COCC(=O)N(C1=C(C=CC=C1C)C)C1C(OCC1)=O | C15H19NO4
solvent | formic acid | 300 ml | C(=O)O | CH2O2
catalyst | iron(III) chloride | 5 g | [Fe](Cl)(Cl)Cl
product | N-methoxyacetyl-N-(2-oxotetrahydro-3-furyl)-3-chloro-2,6-dimethylaniline | 287 g, 92% | COCC(=O)N(C1=C(C(=CC=C1C)Cl)C)C1C(OCC1)=O | C15H18ClNO4
